US07446203B2
According to the process disclosed in U.S. Pat. No. 4,895,841, 5,6-dimethoxy-1-indanone was condensed with 1-benzyl-4-formylpiperidine in the presence of lithium diisopropylamide to give 5,6-dimethoxy-2-[[1-benzyl-4-piperidinyl]methylene]-1-indanone, which was then reduced with platinum oxide catalyst to give donepezil.

reactant | 5,6-dimethoxy-1-indanone | COC=1C=C2CCC(C2=CC1OC)=O | C11H12O3
reactant | 1-benzyl-4-formylpiperidine | C(C1=CC=CC=C1)N1CCC(CC1)C=O | C13H17NO
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
product | 5,6-dimethoxy-2-[[1-benzyl-4-piperidinyl]methylene]-1-indanone | COC=1C=C2CC(C(C2=CC1OC)=O)=CC1CCN(CC1)CC1=CC=CC=C1 | C24H27NO3
